US06479531B1
Step a. 3-(2-Benzyloxycarbonylamino-acetylamino)-benzoic Acid Methyl Ester
3-Amino-benzoic acid methyl ester hydrochloride (1.88 g, 10.0 mmol) was reacted with N-α-CBZ-glycine (3.14 g, 15.0 mmol) according to the procedure of Example 102, step a to afford the product (3.12 g, 91%). 1H NMR (300MHZ, CDCl3) 10.18 (1H, br s), 8.26 (1H, m), 7.84 (1H, d), 7.65 (1H, d), 7.55 (1H, d), 7.48-7.22 (7H, m), 5.05 (2H, s), 3.85 (3H, s), 3.83 (2H, d).

reactant | 3-Amino-benzoic acid methyl ester hydrochloride | 10.0 mmol, 1.88 g | Cl.COC(C1=CC(=CC=C1)N)=O
reactant | N-α-CBZ-glycine | 15.0 mmol, 3.14 g | C1=CC=C(C=C1)COC(=O)NCC(=O)O | C10H11NO4
product | 3-(2-Benzyloxycarbonylamino-acetylamino)-benzoic Acid Methyl Ester | 3.12 g, 91% | COC(C1=CC(=CC=C1)NC(CNC(=O)OCC1=CC=CC=C1)=O)=O | C18H18N2O5
